US06750232B2
2-Amino-5-(l-ethyl-6-oxo-1,6-dihydro-3-pyridinyl)-6-(2-furyl)nicotinic acid
Ethanol (5 mL) and 5 N aqueous sodium hydroxide (10 mL) were added to 2-amino-5-(1-ethyl-6-oxo-1,6-dihydro-3-pyridinyl)-6-(2-furyl)nicotinonitrile (308 mg, 1.01 mmol), followed by heating under reflux for 4 hours. After cooling as it was, the reaction solution was neutralized with 5 N hydrochloric acid. The resulting solid was collected by filtration and then washed with water, to give the title compound (320 mg, 98%) as a yellow solid.

reactant | sodium hydroxide | 5 N, 10 mL | [OH-].[Na+]
reactant | 2-amino-5-(1-ethyl-6-oxo-1,6-dihydro-3-pyridinyl)-6-(2-furyl)nicotinonitrile | 1.01 mmol, 308 mg | NC1=C(C#N)C=C(C(=N1)C=1OC=CC1)C1=CN(C(C=C1)=O)CC | C17H14N4O2
reactant | hydrochloric acid | 5 N | Cl | ClH
reactant | Ethanol | 5 mL | C(C)O | C2H6O
product | 2-Amino-5-(l-ethyl-6-oxo-1,6-dihydro-3-pyridinyl)-6-(2-furyl)nicotinic acid | 320 mg, 98% | NC1=C(C(=O)O)C=C(C(=N1)C=1OC=CC1)C1=CN(C(C=C1)=O)CC | C17H15N3O4
